US06348474B1
7-Carbamoyl-1-(2,4-dichlorobenzyl)-2-methylquinazoline-4-one
2-((N-Acetyl)-(2,4-dichlorobenzyl)amino)-1,4-dicarbamoylbenzene (1.50 g) in a mixture of concentrated hydrochloric acid (10 ml) and methanol (30 ml) was heated under reflux for 30 min. After concentration, the object compound (1.46 g) was obtained as white crystals.

reactant | 2-((N-Acetyl)-(2,4-dichlorobenzyl)amino)-1,4-dicarbamoylbenzene | 1.50 g | C(C)(=O)N(C1=C(C=CC(=C1)C(N)=O)C(N)=O)CC1=C(C=C(C=C1)Cl)Cl | C17H15Cl2N3O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 7-Carbamoyl-1-(2,4-dichlorobenzyl)-2-methylquinazoline-4-one | 1.46 g | C(N)(=O)C1=CC=C2C(N=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H13Cl2N3O2
